US06992087B2
Preparation of methyl (3R,4S)-3-[(3,6-diethylpyrazin-2-yl)amino]-4-(2-fluoroethoxy)pyrrolidine-1-carboxylate
Following the procedure for the preparation of N-[(cis)-1-acetyl-4-ethoxypyrrolidin-3-yl]-5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-amine but substituting 3,6-diethyl-N-[(3R,4S)-4-(2-fluoroethoxy)pyrrolidin-3-yl]pyrazin-2-amine and methyl chloroformate, and making non-critical variations provided the title compound as an oil: 1H NMR (400 MHz, DMSO-d6) δ) 7.61, 5.82, 4.55, 4.51, 4.39, 4.19, 3.73-3.48, 2.64-2.49, 1.20-1.14; IR (diffuse reflectance) 2967, 2934, 2873, 2450 (w), 2407 (w), 2350 (w), 2334 (w), 2226 (w), 1699 (s), 1499, 1457 (s), 1392 (s), 1158, 1142, 768, cm−1; HRMS (FAB) calcd for C16H25FN4O3+H 341.1989, found 341.1988.

reactant | N-[(cis)-1-acetyl-4-ethoxypyrrolidin-3-yl]-5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-amine | C(C)(=O)N1C[C@H]([C@H](C1)OCC)NC1=NC(=C(N=C1CC)C1=C(C=C(C=C1)Cl)Cl)CC | C22H28Cl2N4O2
reactant | 3,6-diethyl-N-[(3R,4S)-4-(2-fluoroethoxy)pyrrolidin-3-yl]pyrazin-2-amine | C(C)C=1C(=NC(=CN1)CC)N[C@@H]1CNC[C@@H]1OCCF | C14H23FN4O
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
product | methyl (3R,4S)-3-[(3,6-diethylpyrazin-2-yl)amino]-4-(2-fluoroethoxy)pyrrolidine-1-carboxylate | C(C)C=1C(=NC(=CN1)CC)N[C@@H]1CN(C[C@@H]1OCCF)C(=O)OC | C16H25FN4O3
